US06903238B2
Step b) 5-Hydroxy-2-(4-hydroxyphenyl)-1H-indene-1,3(2H)-dione.
Pyridine hydrochloride (400 mg) was heated to 190° C. To the melt was added 5-methoxy-2-(4-methoxyphenyl)-1H-inden-1,3(2H)-dione (150 mg, 0.53 mmol) and the reaction was stirred for 3 h. The mixture was cooled to room temperature and dissolved in water and extracted with ethyl acetate. The organic layers were combined and washed with 1 N HCl, water then brine and dried over MgSO4. Evaporation and flash chromatography (50%-60% EtOAc/petroleum ether) gave the product as a light brown solid, (81 mg, 60% yield, m.p. 227-228° C.); MS m/e 255 (M+H)+.

reactant | Pyridine hydrochloride | 400 mg | Cl.N1=CC=CC=C1
reactant | 5-methoxy-2-(4-methoxyphenyl)-1H-inden-1,3(2H)-dione | 0.53 mmol, 150 mg | COC=1C=C2C(C(C(C2=CC1)=O)C1=CC=C(C=C1)OC)=O | C17H14O4
solvent | water | O | H2O
product | 5-Hydroxy-2-(4-hydroxyphenyl)-1H-indene-1,3(2H)-dione | 81 mg, 60% yield | OC=1C=C2C(C(C(C2=CC1)=O)C1=CC=C(C=C1)O)=O | C15H10O4
